US08067445B2
Step 1: {6-Fluoro-2′-[(2,2,2-trifluoro-ethylamino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
Prepared according to the procedure described in Example 4, Step 1, using the following starting materials: (6-fluoro-2′-formyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester and 2,2,2-trifluoroethylamine hydrochloride.

reactant | (6-fluoro-2′-formyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)F)C1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C17H12F4O3
reactant | 2,2,2-trifluoroethylamine hydrochloride | Cl.FC(CN)(F)F
product | {6-Fluoro-2′-[(2,2,2-trifluoro-ethylamino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)F)C1=C(C=C(C=C1)C(F)(F)F)CNCC(F)(F)F)=O | C19H16F7NO2
